US04232027
A. 3-Bromo-2-phenyl-1,5-benzothiazepin-4(5H)-one
A stirred solution of 25.5 g (0.1 mole) of 2,3-dihydro-2-phenyl-1,5-benzothiazepin-4(5H)-one (prepared as disclosed by Krapcho et al, J. Med. Chem., 6, 544, (1963)) in 250 ml of dimethylformamide is treated with a solution of 35 g (0.2 mole) of N-bromosuccinimide in 100 ml of dimethylformamide. The mixture is stirred at 105°-110° for 5 hours, cooled, and poured into 1.8 liters of cold H2O to precipitate a solid. After cooling overnight, the latter is filtered, washed with H2O, and air-dried; wt. 29.6 g (89%); m.p. 190°-192°; s. 180°. Following crystallization from a mixture of 30 ml of hot dimethylformamide and 60 ml of MeCN, the colorless solid weighs 17.8 g (53%); m.p. 240°-242° (dec.).

reactant | 2,3-dihydro-2-phenyl-1,5-benzothiazepin-4(5H)-one | 0.1 mole, 25.5 g | C1(=CC=CC=C1)C1SC2=C(NC(C1)=O)C=CC=C2 | C15H13NOS
reactant | N-bromosuccinimide | 0.2 mole, 35 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | H2O | 1.8 liters | O | H2O
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 3-Bromo-2-phenyl-1,5-benzothiazepin-4(5H)-one | BrC1=C(SC2=C(NC1=O)C=CC=C2)C2=CC=CC=C2 | C15H10BrNOS
